US05948775
2-Amino-N-(4-methoxy-phenyl)-3-methoxy-benzamide
To a solution of 27.17 g (0.141 mol) of 8-methoxyisatoic anhydride in 200 mL of ethanol was added a catalytic amount of 4-dimethylaminopyridine and 350 mL of a 1M solution containing 43.0 g (0.350 mol) of p-anisidine. The reaction mixture was stirred and heated under reflux overnight. The reaction flask was then chilled on ice. The precipitate that formed was collected by vacuum filtration and amounted to 34.7 g. An analytical sample (mp 168-169° C.) was obtained by recrystallization from ethanol.

reactant | 8-methoxyisatoic anhydride | 0.141 mol, 27.17 g | COC1=CC=CC2=C1NC(=O)OC2=O | C9H7NO4
reactant | p-anisidine | 0.350 mol, 43.0 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Amino-N-(4-methoxy-phenyl)-3-methoxy-benzamide | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC=C1OC | C15H16N2O3
